US04285941
(a) Chromone-3-carbonyl chloride
In accordance with the procedure described in Example 5-a), chromone-3-carboxylic acid (3.8 g, 20 mmol) was treated with thionyl chloride (1.73 ml) to obtain the desired compound (3.76 g, 90%).

reactant | chromone-3-carboxylic acid | 20 mmol, 3.8 g | O1C=C(C(C2=CC=CC=C12)=O)C(=O)O | C10H6O4
reactant | thionyl chloride | 1.73 ml | S(=O)(Cl)Cl | Cl2OS
product | Chromone-3-carbonyl chloride | 3.76 g, 90% | O1C=C(C(C2=CC=CC=C12)=O)C(=O)Cl | C10H5ClO3
